US04841076
Synthesis of {[5-chloro-3-(2-methylphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetic acid
In 1.2 l of ethanol was suspended 132 g of ethyl {[5-chloro-3-(2-methylphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate, and 0.53 l of a 1N sodium hydroxide aqueous solution was slowly added dropwise to the suspension at room temperature, followed by stirring at room temperature for 3 hours. The insoluble material was removed by filtration, and the filtrate was acidified with hydrochloric acid while ice-cooling and stirring. The stirring was continued at room temperature overnight. The precipitated crystals were collected by filtration, washed with water, and dried to obtain 105 g of the entitled compound having a melting point of 191° to 192° C.

reactant | ethyl {[5-chloro-3-(2-methylphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetate | 132 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)C)=O)OCC(=O)OCC | C20H17ClO5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 1.2 l | C(C)O | C2H6O
product | {[5-chloro-3-(2-methylphenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetic acid | 105 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)C)=O)OCC(=O)O | C18H13ClO5
